US06972287B1
Preparation of 4-[4-(3,4-Dichloro-phenyl)-butyl]-phenylamine
The title compound was prepared from (trans), (trans)-1,2-dichloro-4-[4-(4-nitrophenyl)-1,3-butadienyl]benzene (15.42 g, 0.048 mol), Ra—Ni (1 g) at 20° C. to 26° C. (ΔP=19.3 psi) under a hydrogen atmosphere in THF (75 mL) and MeOH (75 mL) using the procedure described in Example 1, Step B. This procedure yield a solid, 10.97 g (0.037 mol, 78%) of the desired product. mp 50-52° C.

reactant | (trans)-1,2-dichloro-4-[4-(4-nitrophenyl)-1,3-butadienyl]benzene | 0.048 mol, 15.42 g | ClC1=C(C=C(C=C1)\C=C\C=CC1=CC=C(C=C1)[N+](=O)[O-])Cl | C16H11Cl2NO2
reactant | MeOH | 75 mL | CO | CH4O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | Ra—Ni | 1 g | [Ni] | Ni
product | 4-[4-(3,4-Dichloro-phenyl)-butyl]-phenylamine | 0.037 mol, 10.97 g, 78% | ClC=1C=C(C=CC1Cl)CCCCC1=CC=C(C=C1)N | C16H17Cl2N
